* MUX V2

****** Dispositivos Lógicos ******

.include ../include.cir

****** HSPICE ******

.option measform = 3
.option post = 0

	Mp0	vdd	SELECT	n1	vdd	PMOS w=105n l=32n
	Mn0 	n1 	SELECT 	gnd 	gnd	NMOS w=70n  l=32n

	Mp1 	vdd 	n1 	x1 	vdd	PMOS w=105n l=32n
	Mp2 	vdd 	A 	x1 	vdd 	PMOS w=105n l=32n
	Mn1 	x1 	n1 	n2 	gnd	NMOS w=140n l=32n
	Mn2	n2	A	gnd	gnd	NMOS w=140n l=32n

	Mp3	vdd	x1	x2	vdd	PMOS w=105n l=32n
	Mn3 	x2 	x1 	gnd 	gnd	NMOS w=70n  l=32n

	Mp4 	vdd 	SELECT 	y1 	vdd	PMOS w=105n l=32n
	Mp5 	vdd 	B 	y1 	vdd 	PMOS w=105n l=32n
	Mn4 	y1 	SELECT 	n3 	gnd	NMOS w=140n l=32n
	Mn5	n3	B	gnd	gnd	NMOS w=140n l=32n

	Mp6	vdd	y1	y2	vdd	PMOS w=105n l=32n
	Mn6 	y2 	y1 	gnd 	gnd	NMOS w=70n  l=32n
	
	Mp7 	vdd 	x2 	n4 	vdd	PMOS w=210n l=32n
	Mp8 	n4 	y2 	z 	vdd 	PMOS w=210n l=32n
	Mn7 	z 	x2 	gnd 	gnd	NMOS w=70n  l=32n
	Mn8	z	y2	gnd	gnd	NMOS w=70n  l=32n

	Mp9	vdd	z	out	vdd	PMOS w=105n l=32n
	Mn9 	out 	z 	gnd 	gnd	NMOS w=70n  l=32n

	MpC1E1	vdd	inA	a2	vdd	PMOS  w=105n  L=32n
	MnC1E1	a2	inA	gnd	gnd	NMOS  w=70n   L=32n

	MpC2E1	vdd	a2	A	vdd	PMOS  w=105n  L=32n
	MnC2E1	A	a2	gnd	gnd	NMOS  w=70n   L=32n

	MpC1E2	vdd	inB	b2	vdd	PMOS  w=105n  L=32n
	MnC1E2	b2	inB	gnd	gnd	NMOS  w=70n   L=32n

	MpC2E2	vdd	b2	B	vdd	PMOS  w=105n  L=32n
	MnC2E2	B	b2	gnd	gnd	NMOS  w=70n   L=32n

	MpC1E3	vdd	inSel	sel2	vdd	PMOS  w=105n  L=32n
	MnC1E3	sel2	inSel	gnd	gnd	NMOS  w=70n   L=32n

	MpC2E3	vdd	sel2	SELECT	vdd	PMOS  w=105n  L=32n
	MnC2E3	SELECT	sel2	gnd	gnd	NMOS  w=280n   L=32n

	Mpcs1	vdd	OUT	sc1	vdd	PMOS  w=420n  L=32n
	Mncs1	sc1	OUT	gnd	gnd	NMOS  w=280n  L=32n

	Mpcs2	vdd	sc1	sc2	vdd	PMOS  w=420n  L=32n
	Mncs2	sc2	sc1	gnd	gnd	NMOS  w=280n  L=32n

	.end

